US06680362B1
To a stirred mixture of 2-methyl-2-[2-(2,2,6,6-tetramethylpiperidin-1-yloxy)-propionylamino]-propionic acid (0.50 g; 0.0016 mol), triethylamine (0.16 g; 0.0016 mol) and acetone (5 ml) there was added ethyl chloroformate (0.17 g; 0.0016 mol). After 2 hours, the mixture was filtered and the filtrate was concentrated under vacuum. The residue was mixed with hexane (5 ml) and the solution was decanted from the precipitated solid. The decanted solution was concentrated under vacuum to give 0.30 g (64% yield) of 4,4-dimethyl-2-[1-(2,2,6,6-tetramethylpiperidin-1-yloxy)-ethyl]-4H-oxazol-5-one (AzTEMPO) as a yellow oil.

reactant | 2-methyl-2-[2-(2,2,6,6-tetramethylpiperidin-1-yloxy)-propionylamino]-propionic acid | 0.0016 mol, 0.50 g | CC(C(=O)O)(C)NC(C(C)ON1C(CCCC1(C)C)(C)C)=O | C16H30N2O4
reactant | triethylamine | 0.0016 mol, 0.16 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.0016 mol, 0.17 g | ClC(=O)OCC | C3H5ClO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4,4-dimethyl-2-[1-(2,2,6,6-tetramethylpiperidin-1-yloxy)-ethyl]-4H-oxazol-5-one | 0.30 g, 64% yield | CC1(N=C(OC1=O)C(C)ON1C(CCCC1(C)C)(C)C)C | C16H28N2O3
